US05468742
1.64 g of ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 3 g of tributylstannyl-trimethylsilyl-acetylene and 0.29 g of tetrakis(triphenylphosphine)palladium(0) are refluxed for 42 hours in 20 ml of absolute toluene under a nitrogen atmosphere. The reaction mixture is cooled to approx. -18° C. and filtered. After the filter residue has been dried, 0.74 g of ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate is obtained (38% of theory).

reactant | ethyl 8-chloro-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 1.64 g | ClC=1C(=C(C=C2C(C(=CN(C12)C1CC1)C(=O)OCC)=O)F)F | C15H12ClF2NO3
reactant | tributylstannyl-trimethylsilyl-acetylene | 3 g | C(CCC)[Sn](CCCC)(CCCC)C#C[Si](C)(C)C
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.29 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-(trimethylsilylethinyl)-4-oxo-3-quinolinecarboxylate | 0.74 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)C#C[Si](C)(C)C)F)F)=O)C(=O)OCC | C20H21F2NO3Si
